US08222011B2
(Example of Production of Benzoic Acid from a Plant)
An amount of 25 g of ground Siam benzoin resin was dispersed in 500 ml of a solution (pH of 3) prepared by adding hydrochloric acid to water and was extracted five times by using 20 v/v% of diethylether in a separatory funnel. The combined ether layer was evaporated to remove solvents until the volume thereof reached 5 ml. Benzoic acid with a concentration of 5 g/l was detected by HPLC analysis.

reactant | benzoin resin | C1=CC=C(C=C1)C(C(=O)C2=CC=CC=C2)O | C14H12O2
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
product | Benzoic Acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
